US07875639B2
3-Hydroxy-adamantane-1-carboxylic acid [5-chloro-3H-thiazol-(2Z)-ylidene]-amide
To a suspension of 2-amino-5-chlorothiazole hydrochloride (Aldrich) (1.00 g, 5.84 mmol) in tetrahydrofuran (50 mL) was added N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride (1.12 g, 5.84 mmol), 1-hydroxybenzotriazole (0.79 g, 5.84 mmol), triethylamine (2.04 mL, 14.6 mmol), and 3-hydroxyadamantane-1-carboxylic acid (Acros) (1.15 g, 5.84 mmol). The mixture was stirred overnight at room temperature and was diluted with ethyl acetate, washed with 1 M aqueous sodium carbonate, dried (Na2SO4), filtered and concentrated. Purification by column chromatography (SiO2) using a gradient of 0% to 100% ethyl acetate:hexane provided the title compound. MS (ESI+) m/z 313 (M+H)+.

reactant | 2-amino-5-chlorothiazole hydrochloride | 5.84 mmol, 1.00 g | Cl.NC=1SC(=CN1)Cl
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 5.84 mmol, 1.12 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxybenzotriazole | 5.84 mmol, 0.79 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 14.6 mmol, 2.04 mL | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxyadamantane-1-carboxylic acid | 5.84 mmol, 1.15 g | OC12CC3(CC(CC(C1)C3)C2)C(=O)O | C11H16O3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Hydroxy-adamantane-1-carboxylic acid [5-chloro-3H-thiazol-(2Z)-ylidene]-amide | ClC1=CN/C(/S1)=N/C(=O)C12CC3(CC(CC(C1)C3)C2)O | C14H17ClN2O2S
